US06030964
Synthesis of 1-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]ethanone
2.1 g of 1-[1-(1-methylethyl)-1,2,3,4-tetrahydro-quinolin-6-yl]ethanol was dissolved in 10 ml of acetone, followed by the addition of 10 g of activated manganese dioxide. The obtained mixture was stirred at room temperature for 16 hours and filtered though Celite to remove the manganese dioxide. The filtrate was concentrated in a vacuum and the obtained residue was purified by silica gel column chromatography (10% ethyl acetate/n-hexane) to give 1.3 g of the title compound as a pale-yellow crystal.

reactant | 1-[1-(1-methylethyl)-1,2,3,4-tetrahydro-quinolin-6-yl]ethanol | 2.1 g | CC(C)N1CCCC2=CC(=CC=C12)C(C)O | C14H21NO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
catalyst | manganese dioxide | 10 g | [O-2].[O-2].[Mn+4]
product | 1-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]ethanone | 1.3 g | CC(C)N1CCCC2=CC(=CC=C12)C(C)=O | C14H19NO
